* TB[pam4] .op/sp S21+S11 sweep drive=msb (ngspice-45)
Vcc vcc 0 DC 4
Vcasc vcasc 0 DC 3.25
Vcmb vcmb 0 DC 1.9
Vblsb blsb 0 DC 16
Vbmsb bmsb 0 DC 16
XDUT lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb pam4drv_pam4
Vlp outp vcc DC 0 AC 0 portnum 3 z0 50
Vln outn vcc DC 0 AC 0 portnum 4 z0 50
Vslsbp slsbp 0 DC 1.9
Vslsbn slsbn 0 DC 1.9
Rslsbp slsbp lsbp 50
Rslsbn slsbn lsbn 50
Vsmsbp msbp 0 DC 1.9 AC 1 portnum 1 z0 50
Vsmsbn msbn 0 DC 1.9 AC 1 portnum 2 z0 50
* post-layout adapter: pam4drv_pam4_lay -> pam4drv_pam4 schematic ports
.subckt pam4drv_pam4 lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb
Xlay sub lsbp vcmb lsbn msbp msbn tmsb0 tlsb0 tmsb1 vcasc outp outn vcc pam4drv_pam4_lay
Gtlsb0 tlsb0 0 blsb 0 1m
Gtmsb0 tmsb0 0 bmsb 0 1m
Gtmsb1 tmsb1 0 bmsb 0 1m
Vsub sub 0 DC 0
.ends pam4drv_pam4
.include "../../../report/layout/b/dut_pam4_post.spice"
.lib "cornerRES.lib" res_typ
.lib "cornerCAP.lib" cap_typ

.lib "cornerHBT.lib" hbt_typ
.options gmin=1e-12 reltol=1e-3
.control
op
print v(outp) v(outn) i(Vcc)
sp dec 100 1e+08 1e+11
let s21db = db(0.5*(S_3_1 - S_3_2 - S_4_1 + S_4_2))
let s11db = db(0.5*(S_1_1 - S_1_2 - S_2_1 + S_2_2))
let vp = 0.5*(S_3_1 - S_3_2)
let vn = 0.5*(S_4_1 - S_4_2)
let gpdb = db(vp)
let gndb = db(vn)
let php = ph(vp)*180/pi
let phn = ph(vn)*180/pi
let cmdb = db(mag(vp+vn)+1e-15)
let ddb = db(vp-vn)
let sdc = 0.5*(S_3_1 + S_3_2 - S_4_1 - S_4_2)
let acddb = db(mag(sdc)+1e-15)
wrdata balance.csv gpdb gndb php phn cmdb ddb acddb
.endc
.GLOBAL GND
.end
